US08278441B2
1-Benzyl-6a-(3-bromophenyl)-5-(tert-butyldimethylsilyloxy)hexahydro-1H-cyclopenta[c]isoxazole
To a solution of 1-(3-bromophenyl)-3-(tert-butyldimethylsilyloxy)hex-5-en-1-one (6.84 g, 17.8 mmol) and N-benzylhydroxylamine (2.86 g, 23.2 mmol) in THF (60 mL) is added Ti(OEt)4 (8.14 g, 35.7 mmol). The reaction mixture is heated to 70° C. in a sealed tube. After 2 h, the temperature is increased to 80° C. and stirring is continued for 3 days. The reaction mixture is cooled to room temperature. Water and ethyl acetate are added and the mixture is stirred vigorously for 15 minutes. The solids are allowed to settle and the organic and aqueous layers are decanted through a pad of diatomaceous earth. The layers are separated and the aqueous layer is extracted three times with ethyl acetate. The combined organic layers are washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product is purified by silica gel chromatography eluting with 0% to 20% ethyl acetate in hexanes gradient over 20 minutes to give the title compound as a diastereomeric mixture (7.42 g, 85%). ES/MS m/e (79Br/81Br) 488, 490 (M+1).

reactant | 1-(3-bromophenyl)-3-(tert-butyldimethylsilyloxy)hex-5-en-1-one | 17.8 mmol, 6.84 g | BrC=1C=C(C=CC1)C(CC(CC=C)O[Si](C)(C)C(C)(C)C)=O | C18H27BrO2Si
reactant | N-benzylhydroxylamine | 23.2 mmol, 2.86 g | C(C1=CC=CC=C1)NO | C7H9NO
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-6a-(3-bromophenyl)-5-(tert-butyldimethylsilyloxy)hexahydro-1H-cyclopenta[c]isoxazole | C(C1=CC=CC=C1)N1OCC2C1(CC(C2)O[Si](C)(C)C(C)(C)C)C2=CC(=CC=C2)Br | C25H34BrNO2Si
